US09301951B2
Intermediate 67b: 3-(4-((methylsulfonyl)oxy)but-1-yn-1-yl)benzoic acid
Into a 250-mL round bottom flask, was placed a solution of 3-(4-hydroxybut-1-ynyl)benzoic acid (2 g, 10.52 mmol, 1.00 equiv) in dichloromethane (100 mL), triethylamine (3200 mg, 31.68 mmol, 3.00 equiv), and methanesulfonic anhydride (3700 mg, 21.24 mmol, 2.00 equiv). The resulting solution was stirred for 5 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane/methanol (100:1). This resulted in 3 g crude product as a brown oil.

reactant | 3-(4-hydroxybut-1-ynyl)benzoic acid | 10.52 mmol, 2 g, 1.00 equiv | OCCC#CC=1C=C(C(=O)O)C=CC1 | C11H10O3
reactant | triethylamine | 31.68 mmol, 3200 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 21.24 mmol, 3700 mg, 2.00 equiv | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(4-((methylsulfonyl)oxy)but-1-yn-1-yl)benzoic acid | 3 g | CS(=O)(=O)OCCC#CC=1C=C(C(=O)O)C=CC1 | C12H12O5S
